US05811548
A solution of 4.93 g (10.0 mmol) of 10-benzyl-4-(tert.-butyl-dimethyl-silanyloxymethyl)-3,7-dimethoxy-phenothiazine in 50 ml of diethyl ether/tetrahydrofuran (4:1) was reacted with 7.5 ml of n-butyllithium solution (1.6M in hexane) and 1.47 g (13.0 mmol) of N-formylpiperidine analogously to that described in Example 4.1.1.c. The 10-benzyl-3,7-dimethoxy-6-(tert.-butyl-dimethyl-silanyloxymethyl)phenothiazine-4-carbaldehyde obtained was dissolved in 50 ml of tetrahydrofuran and reduced with 10.0 ml of lithium borohydride solution (1M in tetrahydrofuran) analogously to that described in Example 4.1.8.b. The reaction mixture was worked up and chromatographed analogously to that described in 4.1.1.ea. After drying in a high vacuum 3.72 g (71.9%) of 10-benzyl-6-(tert.-butyl-dimethyl-silanyloxymethyl)-3,7-dimethoxy-phenothiazin-4-yl-methanol were obtained as an amorphous white solid. MS:

reactant | 10-benzyl-4-(tert.-butyl-dimethyl-silanyloxymethyl)-3,7-dimethoxy-phenothiazine | 10.0 mmol, 4.93 g | C(C1=CC=CC=C1)N1C2=CC=C(C=C2SC=2C(=C(C=CC12)OC)C(O[SiH2]C(C)(C)C)(C)C)OC | C28H35NO3SSi
reactant | n-butyllithium | 1.6M, 7.5 ml | C(CCC)[Li]
reactant | N-formylpiperidine | 13.0 mmol, 1.47 g | C(=O)N1CCCCC1 | C6H11NO
solvent | diethyl ether tetrahydrofuran | 50 ml | C(C)OCC.O1CCCC1
product | 10-benzyl-3,7-dimethoxy-6-(tert.-butyl-dimethyl-silanyloxymethyl)phenothiazine-4-carbaldehyde | C(C1=CC=CC=C1)N1C2=CC=C(C(=C2SC=2C(=C(C=CC12)OC)C=O)C(O[SiH2]C(C)(C)C)(C)C)OC | C29H35NO4SSi
